US04910326
Trifluoroacetoacetonitrile
A solution of n-butyllithium in n-hexane (280 ml, 0.44 mole) was added to dry diisopropylamine (64 ml, 0.46 mole) dissolved in dry tetrahydrofuran (400 ml), while maintaining the mixture below 0° C. After stirring at 0° C. for 30 minutes, the mixture was cooled below -72° C. A solution of methyl trifluoroacetate (25.61 g, 0.200 mole), acetonitrile (16.42 g, 0.40 mole) in dry tetrahydrofuran (200 ml) were added dropwise, while maintaining the mixture below -72° C. and after maintaining the mixture at the same temperature for additional 45 minutes, it was warmed to room temperature over 1 hour. Ice-water (700 ml) was added to the mixture and tetrahydrofuran and n-hexane were then evaporated under reduced pressure at a bath temperature of 40° C. The residue was extracted with diethyl ether to remove neutral and basic components, adjusted to pH 1 with 36% HCl and then extracted with methylene chloride to remove by-products such as acetoacetonitrile, etc. The solution was extracted with diethyl ether. After the extract was dried with anhydrous sodium sulfate, p-toluenesulfonic acid (40 mg, 0.0002 mole) was added to the extract. The extract was distilled under the atmospheric pressure and then distilled under reduced pressure to give 26.82 g (crude yield 97.8%) of a cured product. This product was further distilled under reduced pressure to give 16.78 g (61.2%) of the title compound, b.p. 37° C./2.4 mmHg-43° C./2.5 mmHg. When the resulting compound was dissolved in d6 -acetone and its NMR was measured, the ratio of the keto form/the enol form was found to be 17/83.

reactant | n-butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 0.46 mole, 64 ml | C(C)(C)NC(C)C | C6H15N
reactant | methyl trifluoroacetate | 0.200 mole, 25.61 g | FC(C(=O)OC)(F)F | C3H3F3O2
reactant | acetonitrile | 0.40 mole, 16.42 g | C(C)#N | C2H3N
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | p-toluenesulfonic acid | 0.0002 mole, 40 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | n-hexane | CCCCCC | C6H14
solvent | n-hexane | 0.44 mole, 280 ml | CCCCCC | C6H14
product | Trifluoroacetoacetonitrile | 16.78 g, 61.2% | FC(C(CC#N)=O)(F)F | C4H2F3NO
